US06420364B1
N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-ylamino)-propionamide (Method G)
A suspension of 3-chloro-benzo[d]isothiazole 1,1-dioxide (300 mg, 1.49 mmol) and 2-amino-N-(-4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexylpropionamide bis hydrochloride salt (500 mg, 1.37 mmol) was prepared in 5.5 mL of acetonitrile. Triethylamine (575 μL, 4.10 mmol) was added and the reaction mixture was stirred at room temperature for 1 day. The suspension was filtered to remove triethylamine hydrochloride and the filtrate was concentrated. The resulting residue was chromatographed over 50 g of flash silica using dichloromethane/methanol 9:1 as the eluant to provide the desired product as a light yellow solid (310 mg, 49%). 1H NMR (400 MHz, CDCl3) δ 0.25-0.45 (m, 1H), 0.65-0.85 (m, 2H), 0.95-1.10 (m, 2H), 1.30-1.60 (m, 7H), 1.75-1.85 (m, 2H), 1.85-2.2 (m, 2H), 2.31 (s, 3H), 2.35-2.50 (m, 3H), 2.65-2.80 (m, 2H), 4.60-4.70 (m, 1H), 7.35-7.50 (m, 2H), 7.58 (t, J=7.3, 1H), 7.78 (d, J=7.7 Hz, 1H), 7.81 (br s, 1H), 8.91 (br s, 1H). MS, m/z 458=M+1.

reactant | 3-chloro-benzo[d]isothiazole 1,1-dioxide | 1.49 mmol, 300 mg | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | 2-amino-N-(-4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexylpropionamide bis hydrochloride salt | 1.37 mmol, 500 mg | Cl.Cl.NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1
reactant | Triethylamine | 4.10 mmol, 575 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5.5 mL | C(C)#N | C2H3N
product | N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-ylamino)-propionamide | 310 mg, 49% | C(#N)C1(CCN(CC1)C)NC(C(CC1CCCCC1)NC1=NS(C2=C1C=CC=C2)(=O)=O)=O | C23H31N5O3S
